simulator lang=spectre
global 0
ahdl_include "edge_interval_tdc_8b.va"
Vstart (start 0) vsource type=pwl wave=[0 0 10n 0 10.1n 0.9 11n 0 50n 0 50.1n 0.9 51n 0 100n 0 100.1n 0.9 101n 0 160n 0]
Vstop (stop 0) vsource type=pwl wave=[0 0 18.2n 0 18.3n 0.9 19n 0 73.2n 0 73.3n 0.9 74n 0 139.2n 0 139.3n 0.9 140n 0 160n 0]
XDUT (start stop valid code0 code1 code2 code3 code4 code5 code6 code7) edge_interval_tdc_8b
tran tran stop=160n maxstep=100p
save start stop valid code0 code1 code2 code3 code4 code5 code6 code7
